US08629147B2
2-[2-(2-Chloro-4-iodo-pyridin-3-yl)-7-methyl-3H-benzoimidazol-5-yl]-2,8-diaza-spiro[5.5]undecane
To a solution of 4-(8-benzyl-2,8-diaza-spiro[5.5]undec-2-yl)-2-methyl-6-nitro-phenylamine (394 mg, 1.0 mmol) in MeOH (47.5 mL) were added Pd/C (10%, 40 mg) and acetic acid (2.5 mL). The mixture was stirred under atmospheric hydrogen (balloon) at the room temperature for 3 h and filter over Celite. The filtrate was mixed with 2-chloro-3-formyl-4-iodopyridine (267.5 mg, 1.0 mmol), stirred at the room temperature for 18 h, and evaporated to dryness under reduced pressure. The residue was dissolved in MeOH (10 mL) and 28% aqueous NH4OH solution (0.5 mL) was added. After it was stirred for 5 min, the mixture was concentrated and chromatographed (100:9:1 CH2Cl2/MeOH/28% aqueous NH4OH) to afford the title compound (288 mg, 55%). 1H NMR (CDCl3) δ 1.28-1.72 (8H), 2.57 (s, 3H), 2.57-3.12 (8H), 6.82 (s, 1H), 6.92 (s, 1H), 6.73 (d, J=6 Hz, 1H), 7.98 (d, J=6 Hz, 1H). ESI-MS m/z 522 (MH+).

reactant | 4-(8-benzyl-2,8-diaza-spiro[5.5]undec-2-yl)-2-methyl-6-nitro-phenylamine | 1.0 mmol, 394 mg | C(C1=CC=CC=C1)N1CC2(CCCN(C2)C2=CC(=C(C(=C2)[N+](=O)[O-])N)C)CCC1 | C23H30N4O2
reactant | acetic acid | 2.5 mL | C(C)(=O)O | C2H4O2
reactant | 2-chloro-3-formyl-4-iodopyridine | 1.0 mmol, 267.5 mg | ClC1=NC=CC(=C1C=O)I | C6H3ClINO
solvent | MeOH | 47.5 mL | CO | CH4O
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | 2-[2-(2-Chloro-4-iodo-pyridin-3-yl)-7-methyl-3H-benzoimidazol-5-yl]-2,8-diaza-spiro[5.5]undecane | 288 mg, 55% | ClC1=NC=CC(=C1C=1NC2=C(N1)C(=CC(=C2)N2CC1(CCC2)CNCCC1)C)I | C22H25ClIN5
